US04311514
Methyl 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-chlorophenoxyethylthioacetate
20.7 g of potassium carbonate, 19.2 g (0.05 mole) of 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-chlorophenoxy-chloroethane and 5.3 g (0.05 mole) of methyl thioglycolate are added at room temperature to 80 ml of dimethyl sulfoxide. In the course of the exothermic reaction, the temperature rises to about 42° C. The reaction mixture is then stirred overnight at room temperature. On the next day, the batch is diluted with 300 ml of ether and the ethereal solution is washed with two 400 ml portions of 20% K2CO3 solution. The organic phase is dried over magnesium sulfate and concentrated, affording 17.8 g of a light yellow oil with a refractive index of nD21 1.5487. The following compounds were obtained in analogous manner:

reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-chlorophenoxy-chloroethane | 0.05 mole, 19.2 g | ClC1=C(OC=2C=C(OC(C)Cl)C(=CC2)Cl)C=CC(=C1)C(F)(F)F | C15H10Cl3F3O2
reactant | methyl thioglycolate | 0.05 mole, 5.3 g | C(CS)(=O)OC | C3H6O2S
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | ether | 300 ml | CCOCC | C4H10O
product | Methyl 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-chlorophenoxyethylthioacetate | 17.8 g | ClC1=C(OC=2C=C(OCCCC(=S)OC)C(=CC2)Cl)C=CC(=C1)C(F)(F)F | C18H15Cl2F3O3S
